US07262212B2
m-Chloroperbenzoic acid (143.7 g, 833 mmol) was gradually added to a solution of 2-methoxymethoxymethyl-1-butene (98 g, 757 mmol) prepared in Reference Example 206 in methylene chloride (8800 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature overnight. The reaction mixture was washed with water, 10% sodium sulfide aqueous solution and sodium hydrogencarbonate aqueous solution, dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure to afford 2-ethyl-2-methoxymethoxymethyloxirane (111 g, quantitative) as a colorless oil.

reactant | m-Chloroperbenzoic acid | 833 mmol, 143.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methoxymethoxymethyl-1-butene | 757 mmol, 98 g | COCOCC(=C)CC | C7H14O2
solvent | methylene chloride | 8800 ml | C(Cl)Cl | CH2Cl2
product | 2-ethyl-2-methoxymethoxymethyloxirane | 111 g | C(C)C1(OC1)COCOC | C7H14O3
